US04339612
41.8 g (0.66 mole) of 1,2,4-triazole were dissolved in 300 ml of acetone. 93.4 g (0.72 mole) of anhydrous potassium carbonate were added to this solution, the suspension was heated to the boiling point and a solution of 156.5 g (0.6 mole) of 1-(4-chlorophenoxy)-1-chloro-3,3-dimethyl-butan-2-one in 150 ml of acetone was added dropwise at a rate such that the mixture boiled under reflux, without being heated. When the addition had ended, the mixture was heated under reflux for 15 hours in order to bring the reaction to completion; the resulting precipitate was then filtered off, washed with acetone and discarded. The filtrate was freed from solvent under a waterpump vacuum, the residue was taken up in 300 ml of toluene and the mixture was washed once with a solution of 10 g of 37% strength hydrochloric acid in 200 ml of water. The aqueous phase was separated off and discarded; the organic phase was washed with 500 ml of water and--after adding a further 400 ml of toluene--was stirred with a solution of 14.5 g of sodium hydroxide in 350 ml of water at room temperature for 6 hours. The organic phase was then separated off, washed with water until neutral and freed from solvent under a waterpump vacuum. 153.5 g (87% of theory) of 1-(4-chlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one of melting point 75°-76° C. were obtained.

reactant | 1,2,4-triazole | 0.66 mole, 41.8 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.72 mole, 93.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-chlorophenoxy)-1-chloro-3,3-dimethyl-butan-2-one | 0.6 mole, 156.5 g | ClC1=CC=C(OC(C(C(C)(C)C)=O)Cl)C=C1 | C12H14Cl2O2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 1-(4-chlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 153.5 g, 87% | ClC1=CC=C(OC(C(C(C)(C)C)=O)N2N=CN=C2)C=C1 | C14H16ClN3O2
